US07250418B2
Preparation of N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine
To a solution of N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine (112 mg) in dioxane (1.45 ml) was added 2-bromo-pyrimidine (69 mg, 1.5 eq.), 1,3 Bis(2,6-di-i-propylphenyl)imidazolium chloride (20 mg, 0.16 eq.), Tris(dibenzylideneacetone)dipalladium (21 mg, 0.8 eq.) and potassium t-butoxide (49 mg, 1.5 eq.). The reaction mixture was heated at 100° C. for 16 h, poured into saturated sodium bicarbonate (50 ml), extracted 2×50 ml of CH2Cl2, dried MgSO4, filtered and concentrated. Purification via MPLC chromatography eluting with 20–50% ethyl acetate/heptane provided the title compound as an amorphous solid (70 mg, 52%):

reactant | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine | 112 mg | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C)CC | C21H31N5O2
reactant | 2-bromo-pyrimidine | 69 mg, 1.5 eq. | BrC1=NC=CC=N1 | C4H3BrN2
reactant | 1,3 Bis(2,6-di-i-propylphenyl)imidazolium chloride | 20 mg, 0.16 eq. | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[N+]1=CN(C=C1)C1=C(C=CC=C1C(C)C)C(C)C
reactant | potassium t-butoxide | 49 mg, 1.5 eq. | CC(C)([O-])C.[K+]
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dioxane | 1.45 ml | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium | 21 mg, 0.8 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine | 70 mg, 52% | C(C)O[C@@H]1[C@@H](CN(C1)C1=NC=CC=N1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C)CC | C25H33N7O2
